US07713994B2
6-Bromo-4-{[4-(2-pyrrolidin-1-yl-ethyl)-phenylamino]-methylene}-4H-isoquinolin-1,3-dione
A solution of 0.300 g (1.06 mmol) of 6-bromo-4-methoxymethylene-4H-isoquinoline-1,3-dione and 0.222 g (1.17 mmol) of 4-(2-pyrrolidin-1-yl-ethyl)-phenylamine in 1.8 mL of N,N-dimethylformamide (DMF) is heated at 120° C. for 1 h. The reaction is placed in a freezer and the precipitated material is collected, washed with cold N,N-dimethylformamide (DMF) (2×), cold MeOH (2×) and Et2O and dried in vacuo to give 0.307 g (66%) of brick red crystals: mp 212-214° C. (dec);

reactant | 6-bromo-4-methoxymethylene-4H-isoquinoline-1,3-dione | 1.06 mmol, 0.300 g | BrC=1C=C2C(C(NC(C2=CC1)=O)=O)=COC | C11H8BrNO3
reactant | 4-(2-pyrrolidin-1-yl-ethyl)-phenylamine | 1.17 mmol, 0.222 g | N1(CCCC1)CCC1=CC=C(C=C1)N | C12H18N2
solvent | N,N-dimethylformamide | 1.8 mL | CN(C=O)C | C3H7NO
product | 6-Bromo-4-{[4-(2-pyrrolidin-1-yl-ethyl)-phenylamino]-methylene}-4H-isoquinolin-1,3-dione | BrC=1C=C2C(C(NC(C2=CC1)=O)=O)=CNC1=CC=C(C=C1)CCN1CCCC1 | C22H22BrN3O2
